US07419967B2
A mixture of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate (0.100 g, 0.237 mmol), 1,3-benzodioxole-5-sulfonyl chloride (52 mg, 0.237 mmol), diisoproylethylamine (0.042 mL, 0.237 mmol) and dimethylaminopyridine (˜1 mg) in anhydrous tetrahydrofuran (3 mL) was stirred at ambient temperature over 16 hours under an Argon atmosphere. The reaction was evaporated in vacuo and the residue was partitioned between dichloromethane and aqueous hydrochloric acid (1N). The organic phase was separated and dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was purified on a preparative TLC plate (20×20 cm, 500 uM) eluting with 97:3 dichloromethane:methanol. The product band was removed, eluted with 4:1 methylene chloride:methanol, filtered, and evaporated in vacuo. The residue was triturated with water, filtered and dried under high vacuum to provide (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(1-ethylpropoxy)amino]-1-benzyl-2-hydroxypropylcarbamate (114 mg, 80%) as a white solid. H1-NMR (chloroform-D3): 0.89 (m, 6H), 1.57 (m, 7H), 2.95 (m, 5H), 3.69 (m, 2H), 3.89 (m, 4H), 4.15 (m, 1H), 4.82 (d, 1H), 5.01 (m, 1H), 5.64 (d, 1H), 6.10 (s, 2H), 6.90 (d, 1H), 7.23 (m, 6H), 7.39 (m, 1H). MS(ESI): 629(M+Na).

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate | 0.237 mmol, 0.100 g | C(C1=CC=CC=C1)[C@@H]([C@@H](CNOC(CC)CC)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C22H34N2O6
reactant | 1,3-benzodioxole-5-sulfonyl chloride | 0.237 mmol, 52 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)Cl | C7H5ClO4S
reactant | diisoproylethylamine | 0.237 mmol, 0.042 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | dimethylaminopyridine | ˜1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(1-ethylpropoxy)amino]-1-benzyl-2-hydroxypropylcarbamate | 114 mg, 80% | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=CC=C2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)OC(CC)CC | C29H38N2O10S
